US07615648B2
To a round bottom flask (50 mL) under nitrogen with stirring, is added N-Boc-4-(aminomethyl)-piperidine (0.500 g, 2.33 mmol), 2-chlorobenzaldehyde (0.275 mL, 0.344 g, 2.45 mmol) and sodium triacetoxyborohydride (1.483 g, 6.99 mmol) to dichloroethane (20 mL) and dimethylformamide (3 mL). Reaction is allowed to stir for 2 days. TLC (10% MeOH/DCM; starting material r.f 0.1, product r.f. 0.6). Reaction is then poured onto saturated potassium carbonate (c.a. 80 mL) and the product is extracted with ethyl acetate (c.a. 100 mL). This is dried over magnesium sulphate and concentrated in vacuo. The residue is taken up in methanol and placed on a 10 g SCX-2 column and washed with methanol. The product is eluted with 3.5M ammonia in methanol solution. The resultant solution is concentrated in vacuo to afford the N-Boc-4-(2-chlorobenzylaminomethyl)piperidine as a colourless oil (0.677 g, 86%).

reactant | N-Boc-4-(aminomethyl)-piperidine | 2.33 mmol, 0.500 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CN | C11H22N2O2
reactant | 2-chlorobenzaldehyde | 2.45 mmol, 0.275 mL, 0.344 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | sodium triacetoxyborohydride | 6.99 mmol, 1.483 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
reactant | potassium carbonate | 80 mL | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH DCM | CO.C(Cl)Cl
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-Boc-4-(2-chlorobenzylaminomethyl)piperidine | 0.677 g, 86% | C(=O)(OC(C)(C)C)N1CCC(CC1)CNCC1=C(C=CC=C1)Cl | C18H27ClN2O2
